US08404676B2
Intermediate 31: 4-[bis(2-methoxyethyl)amino]-3-nitrobenzoic acid
Bis(2-methoxyethyl)amine (Aldrich B4,820-7; 1.6 g; 12 mmol; 3 eq.) was added to a solution of 4-fluoro-3-nitrobenzoic acid (740 mg; 4 mmol; 1 eq.) in EtOH (20 mL) and the resulting mixture was stirred at room temperature for 2 hours then at 70° C. for 20 hours. The solution was concentrated in vacuo and the residue was partitioned between NaOH 0.5M and Et2O. The aqueous layer was acidified to pH 2 with HCl 5M, extracted with ethyl acetate (3×) and the combined organic phase was dried over magnesium sulfate. After evaporation of the solvent, the residue was crystallised from ethyl acetate/n-pentane to afford the title compound (1.12 g, 94%) as a yellow solid.

reactant | Bis(2-methoxyethyl)amine | 12 mmol, 1.6 g, 3 eq. | COCCNCCOC | C6H15NO2
reactant | 4-fluoro-3-nitrobenzoic acid | 4 mmol, 740 mg, 1 eq. | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-[bis(2-methoxyethyl)amino]-3-nitrobenzoic acid | 1.12 g, 94% | COCCN(C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-])CCOC | C13H18N2O6
